US08710100B2
Diethyl sulfate (12 g, 78.2 mmol) was added to a stirred mixture of 2-hydroxy-3-(3-nitrophenyl)acrylic acid (6.1 g, 30.0 mmol) and caesium carbonate (29.3 g, 90 mmol) in DMF (61 ml) to form a clear, pale yellow mixture, which was stirred at RT overnight. The resulting dark red suspension was heated to 50° C. for 4 h than concentrated in vacuo and the residue partitioned between water (100 ml) and dichloromethane (150 ml). The organic layer was separated, further washed with water (2×100 ml), dried over sodium sulphate and filtered through a silica gel pad. The resulting yellow solution was evaporated to dryness in vacuo to give ethyl 2-ethoxy-3-(3-nitrophenyl)acrylate as a yellow solid (5.6 g, 72%).

reactant | Diethyl sulfate | 78.2 mmol, 12 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | 2-hydroxy-3-(3-nitrophenyl)acrylic acid | 30.0 mmol, 6.1 g | OC(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C9H7NO5
reactant | caesium carbonate | 90 mmol, 29.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 61 ml | CN(C)C=O | C3H7NO
product | ethyl 2-ethoxy-3-(3-nitrophenyl)acrylate | 5.6 g, 72% | C(C)OC(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-] | C13H15NO5
